US04521428
To a solution of 7.5 g of 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine and 4.6 ml of triethylamine in 40 ml of methylene chloride, 6.75 g of 1-naphthylacetyl chloride in 30 ml of methylene chloride area added dropwise at 0° C. The mixture is stirred at 0° C. for 2 hours and water is added. The organic phase is separated, washed with water many times and concentrated under reduce pressure to give 11 g of crude product. Crystallization from 95% ethanol yields 8 g of 1-(1-napthylacetyl)4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine; m.p. 137°-140° C.

reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 7.5 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthylacetyl chloride | 6.75 g | C1(=CC=CC2=CC=CC=C12)CC(=O)Cl | C12H9ClO
reactant | water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(1-napthylacetyl)4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 8 g | C1(=CC=CC2=CC=CC=C12)CC(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C24H20F3NO
